US08685969B2
2. Methyl 6-(2-methoxyethoxy)-3-(2-methyl-3-nitrobenzoyl)-1H-indole-2-carboxylate
To a homogeneous, colorless solution of methyl 6-(2-methoxyethoxy)-1H-indole-2-carboxylate (0.934 g, 3.75 mmol) in dichloromethane (18.74 mL) at 0° C. under nitrogen was added 1M perchlorostannane/CH2Cl2 (4.87 mL, 4.87 mmol) over 10 min. After 5 min, the cold bath was removed, and the yellow, heterogeneous solution was stirred to room temperature for 30 min. A solution of 2-methyl-3-nitrobenzoyl chloride (0.897 g, 4.50 mmol) in nitromethane (18.74 mL, previously dried over MgSO4 overnight) was added over 20 min. After 3.25 hr, additional acid chloride (0.350 g) in nitromethane (3 mL) was added to the reaction. Thirty minutes later, the reaction was poured into ice water (50 mL) and stirred for 15 min. It was diluted with EtOAc (150 mL) and washed with water (50 mL), sat. aq. NaHCO3 (50 mL) and brine (25 mL). The organic solution was dried over MgSO4 and concentrated in vacuo to give the desired product (1.6103 g, 3.90 mmol, 104% yield) as a solid.

reactant | methyl 6-(2-methoxyethoxy)-1H-indole-2-carboxylate | 3.75 mmol, 0.934 g | COCCOC1=CC=C2C=C(NC2=C1)C(=O)OC | C13H15NO4
reactant | perchlorostannane CH2Cl2 | 4.87 mmol, 1M, 4.87 mL | Cl[Sn](Cl)(Cl)Cl.C(Cl)Cl
reactant | 2-methyl-3-nitrobenzoyl chloride | 4.50 mmol, 0.897 g | CC1=C(C(=O)Cl)C=CC=C1[N+](=O)[O-] | C8H6ClNO3
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | dichloromethane | 18.74 mL | ClCCl | CH2Cl2
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
solvent | nitromethane | 3 mL | [N+](=O)([O-])C | CH3NO2
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | Methyl 6-(2-methoxyethoxy)-3-(2-methyl-3-nitrobenzoyl)-1H-indole-2-carboxylate | 3.90 mmol, 1.6103 g, 104% yield | COCCOC1=CC=C2C(=C(NC2=C1)C(=O)OC)C(C1=C(C(=CC=C1)[N+](=O)[O-])C)=O | C21H20N2O7
